US08470847B2
6.1: (±)-2-Pyrazin-2-ylbut-3-yn-2-ol
A 0.5 M solution of ethynylmagnesium chloride in tetrahydrofuran (31.90 mmol, Aldrich) is diluted with 50 ml of tetrahydrofuran and then cooled to 0° C. 3 g of 1-pyrazin-2-ylethanone (24.56 mmol, Lancaster) are then added in several fractions, and the mixture is stirred at 0° C. for 4 hours. The mixture is cooled once again with an ice bath and a solution of NH4Claq is added slowly. The mixture is extracted twice with ethyl acetate and the organic phases are then combined, dried over sodium sulphate, filtered, and concentrated under vacuum. The oily residue obtained is purified by silica chromatography (elution with a cyclohexane:ethyl acetate gradient, 70:30 to 50:50) and 2.9 g of the expected product are obtained in the form of a yellow oil (yield=80%).

reactant | ethynylmagnesium chloride | C(#C)[Mg]Cl
reactant | 1-pyrazin-2-ylethanone | 24.56 mmol, 3 g | N1=C(C=NC=C1)C(C)=O | C6H6N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 31.90 mmol | O1CCCC1 | C4H8O
product | (±)-2-Pyrazin-2-ylbut-3-yn-2-ol | 2.9 g | N1=C(C=NC=C1)C(C)(C#C)O | C8H8N2O
